datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9][C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9](=[C:8]([H:12])[H:13])[C:10](=[S:11])[H:14],58.9944
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:15][H:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:15],108.90952
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14]([O:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([H:10])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14][O:15][H:17],6.73624
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[S:12]([C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])[H:21])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([S:12][H:20])([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])[H:21],-1.2552
[C:0]([C:1]([C:2]([O:3][O:4][H:12])([H:10])[H:11])([O:5][O:6][H:13])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([O:3][O:4][H:12])([H:10])[H:11])([H:9])[O:5]1.[O:6][H:13],45.1872
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18],-16.736
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:15])[H:16])[H:14])=[C:5]([C:6]([H:17])([H:18])[H:19])[c:7]1[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]1[H:24])[H:13].[H:25]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:15])[H:16])[H:14])([C:5]([C:6]([H:17])([H:18])[H:19])[c:7]1[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]1[H:24])[H:25])[H:13],18.1586
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9][C:10](=[C:11]([H:15])[H:16])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9](=[C:8]([H:12])[H:13])[C:10](=[C:11]([H:15])[H:16])[H:14],22.5936
[N:0]([O:1][H:3])[H:2].[O:4][O:5][H:6]>>[H:3][O:4][O:5][H:6].[N:0](=[O:1])[H:2],-6.6944
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:17])[H:18])[H:16])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:14])[H:3].[C:6](=[C:7]([C:8]([C:9](=[C:10]([H:17])[H:18])[H:16])[H:15])[H:13])([H:11])[H:12],12.1336
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:8])[C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])([H:5])([H:6])[H:7],19.4556
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[S:8]=[C:9]([C:10]([S:11][H:14])[H:13])[H:12]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:10]([C:9](=[S:8])[H:12])([S:11][H:14])[H:13],122.591
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])[C:6]1([C:7](=[C:8]([H:18])[H:19])[H:17])[H:16])[H:9],158.95
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15],23.03292
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6](=[C:7]([H:18])[H:19])[H:17])[H:16],7.5312
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:14])([H:15])[H:16])([C:13]([H:18])([H:19])[H:20])[H:17],-2.5104
[C:0]([C:1]([C:2]([C:3]([C:4]([S:5][C:6]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[S:5]1)([H:7])([H:8])[H:9].[C:6]([H:17])([H:18])[H:19],32.3423
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])=[C:4]1[H:9].[O:10]>>[C:0]1([H:5])([O:10])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])=[C:4]1[H:9],-72.42504
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8]([H:9])([H:10])[H:11],9.6232
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])[H:13])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]#[C:8][H:17])[H:13])[H:9],47.7394
